US05849743
a) 2-Methoxy-1-nitronaphthalene
100 g (0.63 mol) of 2-methoxynaphthalene were dissolved in 1.2 l of acetic acid and, at 10° C., 100 ml of 65% strength nitric acid were slowly added dropwise. The mixture was then stirred at 10° C. for 2 h. The resulting precipitate was then filtered off with suction to yield 72.5 g (57%). Melting point 129°-130° C.

reactant | 2-methoxynaphthalene | 0.63 mol, 100 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 1.2 l | C(C)(=O)O | C2H4O2
product | 2-Methoxy-1-nitronaphthalene | COC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C11H9NO3
